US06384030B1
A mixture of [S-(R*,S*)]-2,4-dihydro-2-(2-hydroxy-1-methylpropyl)4-[4-[4-(4-methoxyphenyl)-1-piperazinyl]phenyl]-3H-1,2,4-triazol-3-one (0.01 mol), p-toluene-sulfonyl chloride (0.012 mol), triethylamine (2 g) and dimethylaminopyridine (0.5 g) in CH2Cl2 (100 ml) was stirred at room temperature for 4 days. The mixture was taken up in CH2Cl2 and purified by column chromatography over silica gel (eluent: CH2Cl2 100%). The pure fractions were collected and the solvent was evaporated. The residue was triturated in methylisobutyl keton, filtered off and dried, yielding 4.6 g (79%) [S-(R*,S*)]-2,4-dihydro-4-[4-[4-(4-methoxyphenyl)-1-piperazinyl]phenyl]-2-[1-methyl-2-[[(4-methylphenyl)sulfonyl]oxy]propyl]-3H-1,2,4-triazol-3-one (interm. 134).

reactant | 2,4-dihydro-2-(2-hydroxy-1-methylpropyl)4-[4-[4-(4-methoxyphenyl)-1-piperazinyl]phenyl]-3H-1,2,4-triazol-3-one | 0.01 mol | OC(C(C)N1N=CN(C1=O)C1=CC=C(C=C1)N1CCN(CC1)C1=CC=C(C=C1)OC)C | C23H29N5O3
reactant | p-toluene-sulfonyl chloride | 0.012 mol | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | triethylamine | 2 g | C(C)N(CC)CC | C6H15N
reactant | dimethylaminopyridine | 0.5 g | CN(C)C1=NC=CC=C1 | C7H10N2
solvent | CH2Cl2 | 100 ml | C(Cl)Cl | CH2Cl2
product | 2,4-dihydro-4-[4-[4-(4-methoxyphenyl)-1-piperazinyl]phenyl]-2-[1-methyl-2-[[(4-methylphenyl)sulfonyl]oxy]propyl]-3H-1,2,4-triazol-3-one | COC1=CC=C(C=C1)N1CCN(CC1)C1=CC=C(C=C1)N1C(N(N=C1)C(C(C)OS(=O)(=O)C1=CC=C(C=C1)C)C)=O | C30H35N5O5S
